US05756775
To a solution of oxaloyl chloride (9.08 mL, 104 mmol) in acetonitrile (ACN) (50 mL) at 25° C. was added dropwise difluoroacetic acid (6.55 mL, 104 mmol). After 3 hours, 2-methyl-2-propanethiol (11.74 mL, 104 mmol) was added dropwise followed by cobalt(II) chloride (10 mg). After being stirred at room temperature for 18 hours, additional 2-methyl-2-propanethiol (4.0 mL, 35.4 mmol) was added. After 2 hours, the solution was poured onto Et2O (500 mL) and washed with saturated NaHCO3 (2×300 mL) and H2O (2×300 mL). The organic layer was dried over Na2SO4, and the solvent was removed under reduced pressure to give a red oil. Vacuum distillation at 30 mm Hg gave S-tert butyl difluoroethane-thioate (8.26 g, 47% yield) as a colorless oil: bp 59°-63° C. (30 mm Hg); 1H NMR (CDCl3) δ 1.48 (s, 9H), 5.67 (t, 1H, J=54 Hz); 13C NMR (CDCl3) δ 29.45, 49.32, 108.94 (t, J=255 Hz), 191.23 (t, J=28 Hz); 19F NMR (CDCl3) δ-123.65 (d, J=55 Hz); IR (film, cm-1) 2969, 1684, 1154, 1093, 1064. Anal. Calcd for C6H10F2OS: C, 42.84; H, 5.99. Found: C, 43.06; H, 6.15.

reactant | oxaloyl chloride | 104 mmol, 9.08 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | difluoroacetic acid | 104 mmol, 6.55 mL | FC(C(=O)O)F | C2H2F2O2
reactant | 2-methyl-2-propanethiol | 104 mmol, 11.74 mL | CC(C)(C)S | C4H10S
reactant | 2-methyl-2-propanethiol | 35.4 mmol, 4.0 mL | CC(C)(C)S | C4H10S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | cobalt(II) chloride | 10 mg | [Co](Cl)Cl
product | S-tert butyl difluoroethane-thioate | 8.26 g, 47% yield | FC(C(SC(C)(C)C)=O)F | C6H10F2OS
